US05420158
13.8 g (5.81×10-2 mol) of 2-(7-methoxy-1-naphthyl)ethylamine hydrochloride and 46 cm3 of 47% hydrobromic acid solution are introduced into a 250-cm3 round- bottom flask with a ground neck. The mixture is brought to reflux for 6.5 hours. After cooling, the reaction medium is filtered. The precipitate is washed with water and then with hexane. Recrystallization of the crude product is carried out in an ethyl acetate/hexane mixture to obtain 2-(7-hydroxy-1-naphthyl)ethylamine hydrobromide (yield 80%; melting point: 174°-175° C.).

reactant | 2-(7-methoxy-1-naphthyl)ethylamine hydrochloride | 5.81×10-2 mol, 13.8 g | Cl.COC1=CC=C2C=CC=C(C2=C1)CCN
reactant | hydrobromic acid | 46 cm3 | Br | BrH
product | 2-(7-hydroxy-1-naphthyl)ethylamine hydrobromide | yield 80% | Br.OC1=CC=C2C=CC=C(C2=C1)CCN | InChI=1S/C12H13NO.BrH/c13-7-6-10-3-1-2-9-4-5-11(14)8-12(9)10;/h1-5,8,14H,6-7,13H2;1H
